US06790929B2
Examples 144-153 were carried out on an extruder configured as in Examples 103-105 and illustrate the effect of concentrating the feed solution of oligomeric polycarbonate prior to extrusion, and the effect of extruder throughput rate on the quality of the product polycarbonate prepared using the method of the present invention. The starting monomers; bisphenol A (BPA) and BMSC were charged to the reactor together with the transesterification catalyst, tetrabutylphosphonium acetate (TBPA, 2.5×10−4 mole per mole BPA) and sodium hydroxide (NaOH, 1.0×10−6 moles NaOH per mole BPA). The mixture was heated initially to about 190-195° C. to produce a solution of oligomeric polycarbonate comprising about 55 percent by weight methyl salicylate. This was fed to the extruder to establish a baseline performance (See Examples 144 and 145) after which, extrusion was interrupted and a portion of the methyl salicylate was distilled under reduced pressure from the reactor until the concentration of methyl salicylate in the solution was reduced to about 35 percent by weight. Extrusion was then recommended and the polycarbonates of Examples 146 and 147 were collected at the extruder die face. Extrusion was again discontinued and additional methyl salicylate was distilled from the reactor under reduced pressure. The resultant solution of oligomeric polycarbonate comprising methyl salicyl endgroups II had the following characteristics.

reactant | bisphenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | tetrabutylphosphonium acetate | C(C)(=O)[O-].C(CCC)[P+](CCCC)(CCCC)CCCC
reactant | sodium hydroxide | 1.0×10−6 moles | [OH-].[Na+]
product | methyl salicylate | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
